US09353082B2
N-(1-benzylpiperidin-4-yl)-4-(3′-carbamoylbiphenyl-3-yl)-N-methyl-1H-imidazole-1-carboxamide
Tetrakis(triphenylphosphine)palladium complex (0.076 g, 0.066 mmol) was added to a stirred dispersion of N-(1-benzylpiperidin-4-yl)-4-(3-bromophenyl)-N-methyl-1H-imidazole-1-carboxamide (0.600 g, 1.323 mmol), 3-carbamoylphenylboronic acid (0.229 g, 1.390 mmol) and a 2 M solution of sodium carbonate (0.794 mL, 1.588 mmol) in a mixture of 1-propanol (5 mL) and water (1 mL) at room temperature. The reaction mixture was allowed to stir at 90° C. for 1 h. Water was added and the organic layer was diluted with a mixture of dichloromethane/isopropanol (7:3). The organic layer was separated, dried (MgSO4), filtered and evaporated to give an orange oil. Column chromatography (silica, dichloromethane/methanol 5%) gave the product as an orange oil. The oil was triturated with a mixture of petroleum ether/ethyl acetate/ether to give the product as a beige solid (123 mg, 17%).

reactant | N-(1-benzylpiperidin-4-yl)-4-(3-bromophenyl)-N-methyl-1H-imidazole-1-carboxamide | 1.323 mmol, 0.600 g | C(C1=CC=CC=C1)N1CCC(CC1)N(C(=O)N1C=NC(=C1)C1=CC(=CC=C1)Br)C | C23H25BrN4O
reactant | 3-carbamoylphenylboronic acid | 1.390 mmol, 0.229 g | C(N)(=O)C=1C=C(C=CC1)B(O)O | C7H8BNO3
reactant | sodium carbonate | 1.588 mmol, 0.794 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane methanol | ClCCl.CO
solvent | 1-propanol | 5 mL | C(CC)O | C3H8O
solvent | water | 1 mL | O | H2O
solvent | dichloromethane isopropanol | ClCCl.C(C)(C)O
product | N-(1-benzylpiperidin-4-yl)-4-(3′-carbamoylbiphenyl-3-yl)-N-methyl-1H-imidazole-1-carboxamide | C(C1=CC=CC=C1)N1CCC(CC1)N(C(=O)N1C=NC(=C1)C=1C=C(C=CC1)C1=CC(=CC=C1)C(N)=O)C | C30H31N5O2
